US08895580B2
Step 1: Preparation of ethyl 1-(biphenyl-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
Ethyl 4-oxo-1,4-dihydroquinoline-3-carboxylate (6.11 g, 28.1 mmol), 4-(bromomethyl)biphenyl (9.04 g, 36.6 mmol, 1.3 equiv), potassium iodide (467 mg, 2.81 mmol, 0.1 equiv) and potassium carbonate (9.72 g, 70.3 mmol, 2.5 equiv) were combined in N,N-dimethylformamide (10 mL) and stirred at ambient temperature for 18 hours. The mixture was poured into water (100 mL) and ethyl acetate (100 mL) and aged for 2 hours. The mixture was filtered, the filtrate discarded and the solid was dissolved in dichloromethane (100 mL), dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 4-oxo-1,4-dihydroquinoline-3-carboxylate | 28.1 mmol, 6.11 g | O=C1C(=CNC2=CC=CC=C12)C(=O)OCC | C12H11NO3
reactant | 4-(bromomethyl)biphenyl | 36.6 mmol, 9.04 g, 1.3 equiv | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | potassium iodide | 2.81 mmol, 467 mg, 0.1 equiv | [I-].[K+]
reactant | potassium carbonate | 70.3 mmol, 9.72 g, 2.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | ethyl 1-(biphenyl-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | C1(=CC=C(C=C1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)OCC)C1=CC=CC=C1 | C25H21NO3
